US08541411B2
b) 2-methyl-6-(4-morpholinyl)-1-(1-naphthalenylmethyl)-4-(1H-pyrazol-5-yl)-1H-benzimidazole
A mixture of 4-bromo-2-methyl-6-(4-morpholinyl)-1-(1-naphthalenylmethyl)-1H-benzimidazole (200 mg, 0.46 mmol), 1H-pyrazol-5-ylboronic acid (100 mg, 0.92 mmol), Pd(dba)2 (40 mg, 0.046 mmol), Cs2CO3 (300 mg, 0.92 mmol) and P(t-Bu)3 (10 wt % in hexane, 20 mg, 0.092 mmol) in dioxane (20 mL) and water (10 mL), was stirred at 100° C. for 18 h under a nitrogen atmosphere. The reaction mixture was cooled and then concentrated. The resulting residue was purified by silica gel chromatography eluted with EtOAc to give the product (140 mg 72%), as a white solid. 1H NMR showed this compound is in a form of tautomeric mixture (major tautomer/minor tautomer=5/3) 1H NMR of the major tautomer (300 MHz, DMSO-d6) δ ppm 2.45 (s, 3H), 3.08 (s, 4H), 3.71 (s, 4H), 6.00 (s, 2H), 6.37 (d, 1H, J=7.2 Hz), 6.96 (s, 1H), 7.24-7.72 (m, 6H), 7.83-7.87 (m, 1H), 8.01 (d, 1H, J=7.2 Hz), 8.25 (d, 1H, J=4.2 Hz), 13.24 (br s, 1H); LC-MS: m/e=424 [M+1]+

reactant | 4-bromo-2-methyl-6-(4-morpholinyl)-1-(1-naphthalenylmethyl)-1H-benzimidazole | 0.46 mmol, 200 mg | BrC1=CC(=CC=2N(C(=NC21)C)CC2=CC=CC1=CC=CC=C21)N2CCOCC2 | C23H22BrN3O
reactant | 1H-pyrazol-5-ylboronic acid | 0.92 mmol, 100 mg | N1N=CC=C1B(O)O | C3H5BN2O2
reactant | Cs2CO3 | 0.92 mmol, 300 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | P(t-Bu)3 | 0.092 mmol, 20 mg | P(C(C)(C)C)(C(C)(C)C)C(C)(C)C | C12H27P
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | water | 10 mL | O | H2O
catalyst | Pd(dba)2 | 0.046 mmol, 40 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
product | 2-methyl-6-(4-morpholinyl)-1-(1-naphthalenylmethyl)-4-(1H-pyrazol-5-yl)-1H-benzimidazole | CC1=NC2=C(N1CC1=CC=CC3=CC=CC=C13)C=C(C=C2C2=CC=NN2)N2CCOCC2 | C26H25N5O
